US06410585B1
5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{2-[(2-hydroxy[1,1′-biphenyl]-3-yl)carbonyl]hydrazino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (93 mg, 0.17 mmol) and 3-phenylsalicylic acid hydrazide (45 mg, 0.20 mmol) according to Method C with HPLC purification to give the title compound (30 mg). 1H-NMR (400 MHz, CD3OD) d 4.80 (s, 2H), 4.27 (dd, J=4.9 Hz, J=9.8 Hz, 1H), 3.04 (m, 1H), 2.94 (m, 1H), 2.72 (dd, J=9.3 Hz, J=13.7 Hz, 1H), 1.34 (s, 9H); IR (KBr) 3280, 1694, 1653 cm−1; HRMS m/z 740.2666 (calc. of monoisotopic mass for C39H40N4O11 gives 740.2694).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.17 mmol, 93 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3-phenylsalicylic acid hydrazide | 0.20 mmol, 45 mg | C1(=CC=CC=C1)C1=C(C(C(=O)NN)=CC=C1)O | C13H12N2O2
product | 5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{2-[(2-hydroxy[1,1′-biphenyl]-3-yl)carbonyl]hydrazino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid | 30 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NNC(=O)C=1C(=C(C=CC1)C1=CC=CC=C1)O)CC1=CC=CC=C1 | C39H40N4O11
